US08957078B2
A mixture of 2-amino-N-(4-bromo-3-methyl-isothiazol-5-yl)-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxamide (20 mg, 0.05388 mmol), 1H-pyrazole (7.339 mg, 0.1078 mmol), Cut (21 mg, 0.1103 mmol), Cs2CO3 (71 mg, 0.2179 mmol) in DMF (2 mL) was degassed with nitrogen and heated at 140° C. in a microwave for 1 h. The insoluble material was filtered off and the filtrate was purified by fractionlynx. The clean fractions were freeze-dried yielding 2-amino-6-fluoro-N-(3-methyl-4-(1H-pyrazol-1-yl)isothiazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide as a pale yellow solid. (0.63 mg, 1.9%). MS (ES+) 359.1.

reactant | 2-amino-N-(4-bromo-3-methyl-isothiazol-5-yl)-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.05388 mmol, 20 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C(C(=NS1)C)Br | C11H8BrFN6OS
reactant | 1H-pyrazole | 0.1078 mmol, 7.339 mg | N1N=CC=C1 | C3H4N2
reactant | Cs2CO3 | 0.2179 mmol, 71 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-amino-6-fluoro-N-(3-methyl-4-(1H-pyrazol-1-yl)isothiazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C(C(=NS1)C)N1N=CC=C1 | C14H11FN8OS
